US09278951B2
Synthesis of 1,3-dibenzyl-4,5-dichloro-1H-imidazol-3-ium bromide
4,5-dichloroimidazole (1.00 g, 7.36 mmol) was dissolved in acetonitrile. Potassium hydroxide (0.828 g, 14.72 mmol) was added to the solution and allowed to reflux for 30 min. 1 equivalent of benzyl bromide (1.26 g, 7.36 mmol) was added to the solution and refluxed for 2.5 h. Solution was filtered hot to remove the KBr precipitate and placed back onto reflux. The second equivalent of benzyl bromide (1.38 g, 8.10 mmol) was added to solution and refluxed for 1.5 h. The solution was cooled and the white precipitate was collected and analyzed. Yield: 93%. 1H NMR (500 MHz, DMSO-d6): δ 5.55 (s, 4H, CH2), 7.43-7.46 (m, 10H, aryl), 9.86 (s, 1H, NCHN); 13C NMR (125 MHz, DMSO-d6): δ 51.50, 119.11, 128.27, 128.84, 128.93, 132.61, 136.68

reactant | 4,5-dichloroimidazole | 7.36 mmol, 1.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 14.72 mmol, 0.828 g | [OH-].[K+]
reactant | benzyl bromide | 7.36 mmol, 1.26 g, 1 equivalent | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 8.10 mmol, 1.38 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-dibenzyl-4,5-dichloro-1H-imidazol-3-ium bromide | Yield: 93% | [Br-].C(C1=CC=CC=C1)N1C=[N+](C(=C1Cl)Cl)CC1=CC=CC=C1 | InChI=1S/C17H15Cl2N2.BrH/c18-16-17(19)21(12-15-9-5-2-6-10-15)13-20(16)11-14-7-3-1-4-8-14;/h1-10,13H,11-12H2;1H/q+1;/p-1
